US04921852
To a solution of (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (660 mg) in a mixture of methanol (20 ml) and dichloromethane (20 ml) was added thiourea (165 mg) at room temperature. After stirring at the same temperature for 3 hours, the mixture was poured into ethyl acetate, washed in turn with saturated aqueous sodium bicarbonate and brine. The dried organic layer was evaporated, and the resulting oil was crystallized from a mixture of n-hexane and methanol (100:1 V/V) to give (2S,4R)-2-(2-aminothiazol-4-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (550 mg).

reactant | (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 660 mg | BrCC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H17BrN2O8S
reactant | thiourea | 165 mg | NC(=S)N | CH4N2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2S,4R)-2-(2-aminothiazol-4-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 550 mg | NC=1SC=C(N1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N4O7S2
